US04322420
4-Anilino-8-chloroquinazoline (Compound 13)
15 ml of ethanol were added to a mixture of 3.0 g of 4,8-dichloroquinazoline and 1.9 g of aniline, and then the mixture was heated. The reagents dissolved and immediately solidified. After cooling, the solidified product was collected, washed with ethanol and then recrystallized from ethanol to give 1.9 g (yield 48%) of the desired Compound No. 13 in the form of colourless crystals having a melting point of 206° C. (with decomposition).

reactant | 4,8-dichloroquinazoline | 3.0 g | ClC1=NC=NC2=C(C=CC=C12)Cl | C8H4Cl2N2
reactant | aniline | 1.9 g | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-Anilino-8-chloroquinazoline | 1.9 g, yield 48% | N(C1=CC=CC=C1)C1=NC=NC2=C(C=CC=C12)Cl | C14H10ClN3
